US07678801B2
6-chloro-N-(3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-pyridinecarboxamide
The title compound was prepared as described in Example 1d from 6-chloro-N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-pyridinecarboxamide and (1H-imidazol-2-ylmethyl)amine dihydrochloride: LC-MS m/z 599 (M+H)+, 1.92 min (ret time).

reactant | 6-chloro-N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)S(=O)(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C27H18ClF2N5O4S
reactant | (1H-imidazol-2-ylmethyl)amine dihydrochloride | Cl.Cl.N1C(=NC=C1)CN
product | 6-chloro-N-(3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)NCC=1NC=CN1)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C30H21ClF2N8O2
